US08039455B2
c) 3-Nitro-5-oxazol-2-yl-benzoic acid methyl ester
A mixture of hexachloroethane (42.7 g, 180 mmol) and 47.2 g of triphenylphosphine (180 mmol) in 1 l of acetonitrile is stirred for 20 minutes. A solution of 24 g (90.2 mmol) of 5-nitro-N-(2-oxo-ethyl)-isophthalamic acid methyl ester in 400 ml of acetonitrile is added, followed by 25.8 ml (361 mmol) of pyridine. After 18 h at rt, the mixture is diluted with 500 ml of ethyl acetate and washed with brine. The organic phase is dried over sodium sulfate and concentrated, and the residue is purified by chromatography on silica gel (EtOAc/hexane 1:3) to yield the product in the form of colorless crystals.

reactant | hexachloroethane | 180 mmol, 42.7 g | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
reactant | triphenylphosphine | 180 mmol, 47.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-nitro-N-(2-oxo-ethyl)-isophthalamic acid methyl ester | 90.2 mmol, 24 g | COC(C1=CC(C(=O)NCC=O)=CC(=C1)[N+](=O)[O-])=O | C11H10N2O6
reactant | pyridine | 361 mmol, 25.8 ml | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 1 l | C(C)#N | C2H3N
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 3-Nitro-5-oxazol-2-yl-benzoic acid methyl ester | COC(C1=CC(=CC(=C1)C=1OC=CN1)[N+](=O)[O-])=O | C11H8N2O5
